US08030302B2
Ethyl 1-(4-fluorophenyl)-4-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate
A mixture of ethyl 2-(4-fluorophenylcarbamoyl)-3-methylbut-2-enoate (1.85 g, 6.97 mmol) and N,N-dimethylformamide dimethyl acetal (5 mL, 37.45 mmol) is stirred at 90° C. for 90 min. After the reaction is cooled, EtOAc (30 mL) and saturated NH4Cl solution (20 mL) are added. The organic phase is separated, dried and concentrated. The residue is purified by silica gel column chromatography eluting with DCM:MeOH (10:1). The fractions containing product are concentrated, and the residue is mixed with ether to give 1.2 g of yellow solid which is filtered and discarded. The filtrate is concentrated and purified again by silica gel column chromatography eluting with DCM:MeOH (20:1) to give the product (500 mg, 26% yield). MS (m/z): 276.1 (M+H).

reactant | ethyl 2-(4-fluorophenylcarbamoyl)-3-methylbut-2-enoate | 6.97 mmol, 1.85 g | FC1=CC=C(C=C1)NC(=O)C(C(=O)OCC)=C(C)C | C14H16FNO3
reactant | N,N-dimethylformamide dimethyl acetal | 37.45 mmol, 5 mL | COC(N(C)C)OC | C5H13NO2
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | Ethyl 1-(4-fluorophenyl)-4-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | 1.2 g | FC1=CC=C(C=C1)N1C(C(=C(C=C1)C)C(=O)OCC)=O | C15H14FNO3
